Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Lip swelling, fever/tachycardia

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ taking daily PREP but without significant PMH referred to ED 
for lip swelling, admitted for fever and tachycardia. 

Pt reports he started using new toothpaste 2d ago and injected 
"crystal" last night. He awoke this AM asymptomatic. At ___ 
he noted some swelling of his top and bottom lip; due to 
progressive swelling, he sought medical attention and was 
referred in. At the time of interview, he feels his lower lip 
swelling has begun to resolve. He reports no shortness of 
breath, voice changes, swallowing difficulty, itching, rashes, 
wheezing, or other associated symptoms. He tried Tylenol earlier 
this AM without resolution.

In the ED:
- initial VS 100.4 108 172/97 16 100% RA
- exam: noted to have "Marked edema of right upper lip with mild 
skin excoriation on inferior surface. Trace edema of right lower 
lip. CTAB, no wheezing, moving air well bilaterally, speaking in 
full sentences, no acute distress. Bilateral tonsillar 
enlargement without exudates. tongue is normal in appearance."
- labs: wbc 12, MCV 101, lactate 1.2; Chem, CBC otherwise 
unremarkable
- studies: none
- ECG: none
- interventions: vanco x2 doses, ceftriaxone x2 doses, 
famotidine, diphenhydramine, NS.
- consults: none
Given fever/WBC in stg of IV drug use, patient was admitted for 
observation and further evaluation.
VS on transfer 98.7 98 151/89 18 99% RA.

On arrival, patient reports feeling relatively well. His lip 
continues to be swollen. Confirmed his history of recent 
exposures to only to ___ toothpaste and IV crystal meth. The 
toothpaste was used on the AM of ___, just prior to onset of 
the symptoms, and was new for him. The crystal meth was used via 
injection with a clean needle (no licking, fresh needle, no 
sharing, AC injection site was prepped) on the evening of ___.

Of note, he is quite concerned that he be discharged by ___, 
as he works a second job on weekends to make ends meet. He is 
also worried that his lip will remain swollen and prevent his 
working in the restaurant: "I absolutely cannot wait tables 
looking like this," he states. 

ROS negative except as above
 
Past Medical History:
depression, bulimia, IVDU
 
Social History:
___
Family History:
no FHX of allergic disorders or angioedema
 
Physical Exam:
ADMISSION PHYISCAL EXAM:
VS 99.5PO 140 / 80 101 18 100 ra
Genl: well appearing NAD
HEENT: PERRLA, no icterus, MMM. R side of lip is swollen and 
excoriated on the undersurface, c/w manipulation by the patient. 
tonsils are enlarged but pt states this has always been so. 
Neck: no JVD
Cor: RRR NMRG
Pulm: CTAB. no wheezing. no stridor. 
Abd: s/ntnd
Neuro: AOx3 without gross focal deficits
MSK: ___ without edema. there is no midline spinal 
tenderness
Skin: no evidence of splinter hges, ___ lesions, ___ 
notes on the bilateral hands or feet. staining of R ___ digit 
c/w tobacco use.
Access: PIV

DISCHARGE PHYSICAL EXAM:
Vital Signs: 98.0 PO 115/77 95 18 98 RA 
Genl: well appearing NAD
HEENT: PERRLA, no icterus, MMM. R side of lip is swollen and 
excoriated erosion on the undersurface c/w manipulation by the 
patient. tonsils are enlarged (c/w baseline). few white 
vesicular lesions in oral cavity. 
Neck: no JVD, no LAD
Cor: RRR NMRG
Pulm: CTAB. no wheezing, rales, or rhonchi. no stridor. 
Abd: soft, non-distended, non-tender to palpation
Neuro: AOx3 without gross focal deficits
MSK: ___ without edema. there is no midline spinal 
tenderness
Skin: no evidence of splinter hemorrhages, ___ lesions, or 
___ notes on the bilateral hands or feet. staining of R ___ 
digit c/w tobacco use.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 05:40PM BLOOD WBC-12.0* RBC-4.41* Hgb-15.3 Hct-44.4 
MCV-101* MCH-34.7* MCHC-34.5 RDW-12.4 RDWSD-46.7* Plt ___
___ 05:40PM BLOOD Neuts-73.7* Lymphs-12.0* Monos-13.5* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-8.83* AbsLymp-1.44 
AbsMono-1.62* AbsEos-0.01* AbsBaso-0.03
___ 05:40PM BLOOD Plt ___
___ 05:40PM BLOOD Glucose-91 UreaN-8 Creat-0.7 Na-137 K-3.5 
Cl-95* HCO3-24 AnGap-22*
___ 05:48PM BLOOD Lactate-1.2
___ 05:40PM BLOOD CRP-6.1*
___ 10:15AM BLOOD ALT-27 AST-48* AlkPhos-67 TotBili-0.9

DISCHARGE LABS:
===============
___ 08:00AM BLOOD WBC-6.7 RBC-4.65 Hgb-16.2 Hct-47.7 
MCV-103* MCH-34.8* MCHC-34.0 RDW-12.7 RDWSD-47.8* Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD Glucose-77 UreaN-12 Creat-0.7 Na-138 
K-4.0 Cl-99 HCO3-26 AnGap-17
___ 08:00AM BLOOD Calcium-9.0 Phos-3.7 Mg-2.4

MICROBIOLOGY:
==============
___: UA: negative

___ 4:32 pm: Direct Antigen Test for Herpes Simplex Virus 
Types 1 & 2 (Final ___: 
      UNINTERPRETABLE DUE TO INADEQUATE SPECIMEN. 
      Refer to culture results for further information. 

___ 4:32 pm DIRECT ANTIGEN TEST FOR VARICELLA-ZOSTER VIRUS 
(Final ___: 
      UNINTERPRETABLE DUE TO INADEQUATE SPECIMEN. 
      Refer to culture results for further information. 

___ 4:32 pm SKIN SCRAPINGS
   VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Pending): 
   VARICELLA-ZOSTER CULTURE (Pending): 

___ 8:00 am SEROLOGY/BLOOD: RAPID PLASMA REAGIN TEST 
(Pending): 

___ Blood Cx x3: Pending

___ Blood Cx x2: Pending

IMAGING:
========
___: CXR:  
No previous images.  There is hyperexpansion of the lungs, but 
no evidence of acute pneumonia, vascular congestion, or pleural 
effusion. 
 
Brief Hospital Course:
___ hx IVDU, PREP use who p/w 1d progressive lip swelling after 
IV substance use, found to have tachycardia, leukocytosis, 
fever.

# leukocytosis/Fever of unknown origin: Pt p/w low-grade fever, 
tachycardia, and leukocytosis to 12. Given hx of active IVDU 
there was concern for bacteremia. No stigmata of endocarditis on 
exam, no known valvular disease. Remained afebrile and 
leukocytosis resolved by HD1. Other infectious workup was 
negative including UA and CXR. Treated empirically for 
endocarditis with Vanc/Cefepime, however pt left AMA before 48H 
period of surveillance was complete because he had an obligation 
at ___ and was afraid he would get fired if he missed it. Blood 
cultures were pending at discharge.

# Lip swelling: Pt p/w 1d progressive upper lip/facial swelling 
initially concerning for allergic reaction vs. angioedema. Only 
known exposure was recent IVDU with crystal meth. No personal or 
family history of angioedema or other risk factors. Swelling 
progressively decreased with diphenhydramine. No concern for 
airway compromise. Steroids were held given clinical improvement 
w anti-histamines and concern for infection. Dermatology was 
consulted, felt the large lesion on the upper lip as well as 
small vesicular lesions near the uvula were most suggestive of 
primary HSV, sent DFA but was unintereptable due to lack of 
cells. Viral culture pending at discharge. Notably, pt did have 
a new sexual partner a few days before presentation and was 
concerned about HSV.
- Was begun on acyclovir, greatly improved swelling on day of 
discharge. Continued acyclovir ___. 

# Substance use disorder: Pt drinks ___ drinks per day. No hx 
of withdrawal symptoms or seizures. Has used IV crystal meth 
twice - ___ time ___ time 1d PTA. Was monitored on CIWA 
but did not require treatment. Mild elevation of AST consistent 
with early alcoholic hepatitis. Patient was counseled on safe 
injection practices and potential safety hazards of ETOH excess 
and IV drug use. Also active smoker, counseled on cessation.
- Discussed ___. substance abuse programs, such as ___ 
substance abuse programs. Pt. declined further information. He 
was interested in re-engaging in therapy, planned to call 
therapist after d/c, declined further help during admission. 

#Tachycardia: Pt has hx of significant alcohol use and p/w 
tachycardia to 120s iso leukocytosis c/f infection vs. alcohol 
withdrawal. HR was consistently in the ___ upon discharge. 
Asymptomatic. 

TRANSITIONAL ISSUES:
========================
- discharged on course of Acyclovir: ___ - ___ as most 
likely source of infection/fever/tachycardia
- post-d/c appointment scheduled with PCP ___, 9:10 
a.m., needs close f/u
- may benefit from further counseling about HSV infection
- has agreed to return for admission if blood cultures result as 
positive
- may have early signs of alcoholic hepatitis, consider further 
w/u and counseling on alcohol

*************LEFT AMA***************
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY PREP 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q8H Duration: 5 Days 
RX *acyclovir 400 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*25 Tablet Refills:*0 
2.  DiphenhydrAMINE 25 mg PO Q8H Duration: 2 Days 
Take only until you see resolution of swelling, then 
discontinue.  
3.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY PREP  
4.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Oral lesion, likely viral, with facial edema
substance use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You came to the hospital because your lip was swollen. You had a 
fever and fast heart rate and due to your recent injection of 
drugs, there was concern for a bloodstream infection.

You received IV antibiotics Vancomycin and Cefepime while 
waiting blood cultures to result. Standard practice would be to 
observe you for 48 hours on IV antibiotics to make sure that you 
do not get sicker, then stop the antibiotics if blood cultures 
have not yet turned positive and continue to observe for another 
24 hours.

You were evaluated by dermatology, who thought your lip swelling 
and ulceration are being caused by a primary Herpes Simplex 
Virus infection and recommended starting you on an antiviral 
medicine called Acyclovir for 5 days. A swab of your oral lesion 
was taken and viral cultures are pending.

You received Benadryl every 8 hours and this likely helped your 
facial swelling to improve, but it may also be from antibiotics 
and anti-viral treatment.

You decided that you needed to leave the hospital before the 
workup was complete due to a ___ obligation. Risks of leaving 
prior to completing the diagnostic workup and treatments were 
explained, including but not limited to death from untreated 
infection. You acknowledged these risks as acceptable and agreed 
to return to the ED if blood cultures result as positive after 
your discharge.

You should call your primary care doctor at ___ today to 
schedule an appointment for next week.

Please take acyclovir with plenty of water and do not share 
anything by mouth, including drinks, kissing, or oral sex as you 
may have actively infectious Herpes. You can continue taking 
Benadryl until your swelling resolves.

It was a pleasure caring for you and we wish you the best,
Your ___ Team
 
Followup Instructions:
___